US05095014
3-[2-Chloro-4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A solution of 2 g (0.0065 mole) of 3-[2-chloro-4-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride in 15 ml of tetrahydrofuran was treated while stirring with 1 ml (0.013 mole) of 57% ammonium hydroxide. After stirring for 16 h the reaction mixture was diluted with 100 ml of water and the solid which precipitated was collected by filtration (2.4 g). Recrystallization from benzene/ligroin yielded 1.6 g (83.5%) of white crystals, mp. 156°-159° C.

reactant | 3-[2-chloro-4-(trifluoromethyl)phenoxy]-1-azetidinecarbonyl chloride | 0.0065 mole, 2 g | ClC1=C(OC2CN(C2)C(=O)Cl)C=CC(=C1)C(F)(F)F | C11H8Cl2F3NO2
reactant | ammonium hydroxide | 0.013 mole, 1 ml | [OH-].[NH4+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 3-[2-Chloro-4-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 1.6 g, 83.5% | ClC1=C(OC2CN(C2)C(=O)N)C=CC(=C1)C(F)(F)F | C11H10ClF3N2O2
